US05108485
Preparation of 2-Methyl 4.5-benzimidazoledicarboxylic acid
A mixture of dimethyl 2-methyl-4,5-benzimidazoledicarboxylate and 8 equivalents of 10N sodium hydroxide is stirred 4 hours at 70° C., cooled and acidified with hydrochloric acid to afford the title product as cream-colored crystals, mp 270° C. (dec).

reactant | dimethyl 2-methyl-4,5-benzimidazoledicarboxylate | CC=1NC=2C(N1)=CC=C(C2C(=O)OC)C(=O)OC | C12H12N2O4
reactant | sodium hydroxide | 10N, 8 equivalents | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-Methyl 4.5-benzimidazoledicarboxylic acid | CC=1NC=2C(N1)=CC=C(C2C(=O)O)C(=O)O | C10H8N2O4
